US08710245B2
(d) Synthesis of (2-amino-4,5,6,7-tetrahydrobenzo[d]thiazol-4-yl)methyl methanesulfonate
To a solution of (2-amino-4,5,6,7-tetrahydrobenzo[d]thiazol-4-yl)methanol (3.3 mmol) and Et3N (1.4 mL, 10 mmol) in THF (10 mL) was added MsCl (0.3 mL, 3.6 mmol) dropwise at room temperature. The resulting mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with water (200 mL), filtered, and dried to give the crude product, which was used directly in the next step without further purification.

reactant | (2-amino-4,5,6,7-tetrahydrobenzo[d]thiazol-4-yl)methanol | 3.3 mmol | NC=1SC2=C(N1)C(CCC2)CO | C8H12N2OS
reactant | Et3N | 10 mmol, 1.4 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 3.6 mmol, 0.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | (2-amino-4,5,6,7-tetrahydrobenzo[d]thiazol-4-yl)methyl methanesulfonate | CS(=O)(=O)OCC1CCCC2=C1N=C(S2)N | C9H14N2O3S2
